US06844345B2
c) 3-Ethoxy-7-methyl-1H-indole-2-carboxylic acid ethyl ester
Toluene-4-sulfonic acid ethyl ester (274 mg, 1.37 mmol) and potassium carbonate (378 mg, 2.74 mmol) were added to a solution of 3-hydroxy-7-methyl-1H-indole-2-carboxylic acid ethyl ester (300 mg, 1.37 mmol) in N,N-dimethylformamide (3 mL). The mixture was stirred at 50° C. for 16 h, then cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, hexane/ethyl acetate 6:1) afforded the title compound (250 mg, 74%). White solid, ISP-MS: m/e=248.2 ([M+H+]).

reactant | Toluene-4-sulfonic acid ethyl ester | 1.37 mmol, 274 mg | C(C)OS(=O)(=O)C1=CC=C(C=C1)C | C9H12O3S
reactant | potassium carbonate | 2.74 mmol, 378 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-7-methyl-1H-indole-2-carboxylic acid ethyl ester | 1.37 mmol, 300 mg | C(C)OC(=O)C=1NC2=C(C=CC=C2C1O)C | C12H13NO3
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-Ethoxy-7-methyl-1H-indole-2-carboxylic acid ethyl ester | 250 mg, 74% | C(C)OC(=O)C=1NC2=C(C=CC=C2C1OCC)C | C14H17NO3
